US04983608
N-(1H-Indol-1-yl)-N-propyl-4-pyrimidinamine
To 100 ml ethanol, was added 10% Pd/C (1.2 g), MgO (1.0 g), and 6-chloro-N-(1H-indol-1-yl)-N-propyl-4-pyrimidinamine (4.2 g). After stirring under H2 at ambient temperature for three hours, the mixture was filtered, and the filtrate evaporated to 4.0 g of an oil. This material was eluted on a silica gel column with 10% ethyl acetate/DCM via HPLC, to give 2.4 g (66%) of an oil, product N-(1H-Indol-1-yl)-N-propyl-4-pyrimidinamine.

reactant | 6-chloro-N-(1H-indol-1-yl)-N-propyl-4-pyrimidinamine | 4.2 g | ClC1=CC(=NC=N1)N(CCC)N1C=CC2=CC=CC=C12 | C15H15ClN4
catalyst | Pd/C | 1.2 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(1H-Indol-1-yl)-N-propyl-4-pyrimidinamine | 2.4 g, 66% | N1(C=CC2=CC=CC=C12)N(C1=NC=NC=C1)CCC | C15H16N4
